US05362742
To a mixture of 3-amino-4-(2-chlorophenyl)-6,8-dimethylquinoline (1.02 g), 3,5-di-tert-butyl-4-hydroxy benzoic acid (750 mg), diethylphosphoryl cyanide (DEPC) (587 mg) and N,N-dimethylformamide (100 mg) was dropwise added a solution of triethylamine (0.51 ml) in DMF (2 ml) under stirring at 0° C. The mixture was stirred at 0° C. for 30 minutes and at room temperature for one night. Then, the mixture was diluted with water and extracted with ethyl acetate. The ethyl acetate layer was concentrated after being washed with water and dried (MgSO4). The residue was purified by a silica gel column chromatography with hexane-ethyl acetate (85:15,V/V), and then crystallized from methanol to give 4-(2-chlorophenyl)-3-(3,5-di-tert-butyl-4-hydroxybenzamido)-6,8-dimethylquinoline (373 mg, 24.2%). Recrystallization from methanol gave colorless prisms of mp 127°-129° C.

reactant | 3-amino-4-(2-chlorophenyl)-6,8-dimethylquinoline | 1.02 g | NC=1C=NC2=C(C=C(C=C2C1C1=C(C=CC=C1)Cl)C)C | C17H15ClN2
reactant | 3,5-di-tert-butyl-4-hydroxy benzoic acid | 750 mg | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
reactant | diethylphosphoryl cyanide | 587 mg | C(C)P(=O)(CC)C#N | C5H10NOP
reactant | triethylamine | 0.51 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 100 mg | CN(C=O)C | C3H7NO
product | 4-(2-chlorophenyl)-3-(3,5-di-tert-butyl-4-hydroxybenzamido)-6,8-dimethylquinoline | 373 mg, 24.2% | ClC1=C(C=CC=C1)C1=C(C=NC2=C(C=C(C=C12)C)C)NC(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C32H35ClN2O2
